US07517875B2
After dissolving 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-5-carboaldehyde (86 mg, 0.131 mmol) in anhydrous tetrahydrofuran (1.2 ml) under a nitrogen stream, ethylmagnesium bromide (0.26 ml, 1M tetrahydrofuran solution) was added at 0° C., and the mixture was stirred at room temperature for 13 minutes. Saturated aqueous ammonium chloride was added, and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and then dried over sodium sulfate, and the solvent was distilled off under reduced pressure to obtain 1-[2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-propan-1-ol.

reactant | 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-5-carboaldehyde | 0.131 mmol, 86 mg | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CN(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C=O)COCC[Si](C)(C)C | C37H54N4O3Si2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 1.2 ml | O1CCCC1 | C4H8O
solvent | ethylmagnesium bromide | 1M, 0.26 ml | C(C)[Mg]Br
product | 1-[2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-propan-1-ol | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CN(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C(CC)O)COCC[Si](C)(C)C | C39H60N4O3Si2
